* top_r_hitas_eldo.cir bench SARlogic
* 

*****************
.option  nopage nomod
+        newtol numdgt=7 ingold=2 gmindc=1e-18
.option DOTNODE
.option MSGNODE = 0

.TEMP 25
* models are provide in the tcl file
*.lib '/users/soft/techno/dev/taiwan/T-018-CM-SP-007-K3/180/models/eldo/cmn018_assp_v1d3.eldo' TT
*.lib '/users/soft/techno/dev/taiwan/T-018-CM-SP-007-K3/180/models/eldo/cmn018_assp_v1d3.eldo' TT_3V
*.lib '/users/soft/techno/dev/taiwan/T-018-CM-SP-007-K3/180/models/eldo/cmn018_assp_v1d3.eldo' TT_RES
*.lib '/users/soft/techno/dev/taiwan/T-018-CM-SP-007-K3/180/models/eldo/cmn018_assp_v1d3.eldo' TT_DIO


Vsupply 1 0 1.8
Vground 0 0 0

******************
* circuit model
* include standard cells
.INCLUDE /users/soft/techno/techno/pdkmaster/views/tsmc_c018/FlexLib/spice/FlexLib.spi

*added cell by Coriolis placer
.INCLUDE /users/soft/techno/techno/pdkmaster/views/tsmc_c018/FlexLib/spice/tiepoly_x0.spi

* include circuit netlist
.INCLUDE sarlogic_r_simu.spi

*****************
* Circuit Instantiation
* INTERF vss
* INTERF vdd
* INTERF soc
* INTERF se
* INTERF rst
* INTERF res[7]
* INTERF res[6]
* INTERF res[5]
* INTERF res[4]
* INTERF res[3]
* INTERF res[2]
* INTERF res[1]
* INTERF res[0]
* INTERF eoc
* INTERF dac_control[7]
* INTERF dac_control[6]
* INTERF dac_control[5]
* INTERF dac_control[4]
* INTERF dac_control[3]
* INTERF dac_control[2]
* INTERF dac_control[1]
* INTERF dac_control[0]
* INTERF cmp
* INTERF clk

* NET     0 = vss
* NET     1 = vdd
* NET     2 = soc
* NET     4 = se
* NET     5 = rst
* NET    30 = res[7]
* NET    31 = res[6]
* NET    32 = res[5]
* NET    33 = res[4]
* NET    34 = res[3]
* NET    35 = res[2]
* NET    36 = res[1]
* NET    37 = res[0]
* NET    49 = eoc
* NET    58 = dac_control[7]
* NET    59 = dac_control[6]
* NET    60 = dac_control[5]
* NET    61 = dac_control[4]
* NET    62 = dac_control[3]
* NET    63 = dac_control[2]
* NET    64 = dac_control[1]
* NET    65 = dac_control[0]
* NET    66 = cmp
* NET    67 = clk

*.subckt sarlogic_r 0 1 2 4 5 30 31 32 33 34 35 36 37 49 58 59 60 61 62 63 64 65 66 67

Xsarlogic_r  0 1 2 4 5 30 31 32 33 34 35 36 37 49 58 59 60 61 62 63 64 65 66 67 sarlogic_r




*load on outputs
Cres0 37 0 0.5pF
Cres1 36 0 0.5pF
Cres2 35 0 0.5pF
Cres3 34 0 0.5pF
Cres4 33 0 0.5pF
Cres5 32 0 0.5pF
Cres6 31 0 0.5pF
Cres7 30 0 0.5pF

C0 65 0 0.5pF
C1 64 0 0.5pF
C2 63 0 0.5pF
C3 62 0 0.5pF
C4 61 0 0.5pF
C5 60 0 0.5pF
C6 59 0 0.5pF
C7 58 0 0.5pF

*clock
vck 67 0 dc 0.6 pulse (0 1.8 5ns 1ns 1ns 50ns 110ns)

* input
** reset
vrst 5 0 0
** cmp
vcmp 66 0 1.8

*start of conversion SOC
vsoc 2 0 dc 0.6 pulse (0 1.8 5ns 1ns 1ns 110ns 1100ns)

.op
.TRAN 100ps 1500ns 0 
.PLOT TRAN v(67) v(66) v(2) v(49) v(58) v(59) v(60) v(30) v(31) v(32)

.end


